US05863947
A stirred mixture of methyl 2-benzamido-2-(3-methoxy-6-methyl-4-trifluoromethylsulphonylphenyl)acetate (0.3 g, 0.65 mmol) triethylamine (0.16 g, 1.6 mmol), palladium acetate (5 mg, 0.022 mmol) and 1,3-diphenylphosphinopropane (9 mg, 0.022 mmol) in dimethyformamide (3 ml) and methanol was saturated with carbon monoxide gas using a bubbler and then heated to 70° C. for 3 hours and overnight at room temperature under an atmosphere of carbon monoxide using a gas filled balloon. The mixture was acidified with aqueous hydrochloric acid (2M) and extracted with ethyl acetate (2×). The combined extracts were washed with a saturated solution of ammonium chloride, dried, filtered and evaporated to a solid. Chromatography on flash silica eluting with diethyl ether-hexane (3:2, 4:1) gave methyl 2-benzamido-2-(4-methoxycarbonyl-3-methoxy-6-methylphenyl)acetate as a white solid.

reactant | methyl 2-benzamido-2-(3-methoxy-6-methyl-4-trifluoromethylsulphonylphenyl)acetate | 0.65 mmol, 0.3 g | C(C1=CC=CC=C1)(=O)NC(C(=O)OC)C1=CC(=C(C=C1C)S(=O)(=O)C(F)(F)F)OC | C19H18F3NO6S
reactant | 1,3-diphenylphosphinopropane | 0.022 mmol, 9 mg | C1(=CC=CC=C1)PCCCPC1=CC=CC=C1 | C15H18P2
reactant | carbon monoxide | [C]=O | CO
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | dimethyformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
catalyst | palladium acetate | 0.022 mmol, 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 2-benzamido-2-(4-methoxycarbonyl-3-methoxy-6-methylphenyl)acetate | C(C1=CC=CC=C1)(=O)NC(C(=O)OC)C1=CC(=C(C=C1C)C(=O)OC)OC | C20H21NO6
